US06716861B2
(3R)-N-(benzyloxy)-6-cyclohexyl-3-{4-[(cyclopentylamino)methyl]-1,3-oxazol-2-yl}hexanamide
Method and purification as for preparation 157 using (3R)-N-(benzyloxy)-6-cyclohexyl-3-(4-formyl-1,3-oxazol-2-yl)hexanamide (preparation 156) (200 mg, 0.50 mmol) and cyclopentylamine (50 μl, 0.50 mmol) as starting materials to afford the title compound as a colourless oil (122 mg, 48%).

reactant | (3R)-N-(benzyloxy)-6-cyclohexyl-3-(4-formyl-1,3-oxazol-2-yl)hexanamide | 0.50 mmol, 200 mg | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)C=O)=O | C23H30N2O4
reactant | cyclopentylamine | 0.50 mmol, 50 μl | C1(CCCC1)N | C5H11N
product | (3R)-N-(benzyloxy)-6-cyclohexyl-3-{4-[(cyclopentylamino)methyl]-1,3-oxazol-2-yl}hexanamide | 122 mg, 48% | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)CNC1CCCC1)=O | C28H41N3O3
